US04622401
2-(3-Amino-5-methyl-2-pyrazolin-1-yl)-5-chloropyridine
A mixture of 0.20 g. of sodium metal dissolved in 50 ml. of absolute ethanol, 5.0 g. of 3-chloro-6-hydrazinopyridine and 4.8 g. of crotononitrile is heated at reflux for 18 hours. The procedure of Example 5 is followed through the evaporation of the magnesium silicate filtrate to give a yellow gum. Trituration with hexane gives a yellow solid. The solid is dissolved in dichloromethane. This solution is concentrated by heating on a steam bath while adding hexane, then is cooled in a refrigerator to separate 3.3 g. of the product of the Example as pale yellow crystals, m.p. 168°-170° C.

reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | 3-chloro-6-hydrazinopyridine | ClC=1C=NC(=CC1)NN | C5H6ClN3
reactant | crotononitrile | C(\C=C\C)#N | C4H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 2-(3-Amino-5-methyl-2-pyrazolin-1-yl)-5-chloropyridine | NC1=NN(C(C1)C)C1=NC=C(C=C1)Cl | C9H11ClN4
